US06159941
To a solution of propane-1,3-diamine (65.1 ml, 0.764 mol) in dry pyridine (25 ml) kept under an atmosphere of nitrogen 2-chloro-quinoline (25 g, 0.153 mol) was added. The reaction mixture was heated at reflux temperature for 18 h. To the cooled reaction mixture was added tetrahydrofuran (100 ml) and the precipitate was filtered off and washed with tetrahydrofuran (2×50 ml). The solvent was evaporated in vacuo and the residue purified by distillation at 154° C. and 2.5×10-2 mbar affording 25.34 g (82%) of N-(quinolin-2-yl)propane-1,3-diamine as a crystallising oil.

reactant | propane-1,3-diamine | 0.764 mol, 65.1 ml | C(CCN)N | C3H10N2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | N-(quinolin-2-yl)propane-1,3-diamine | 25.34 g, 82% | N1=C(C=CC2=CC=CC=C12)NCCCN | C12H15N3
